.subckt alu A0 A1 D0 D1 D2 D3 node_x gnd

    X1 A0 A0comp node_x gnd NOT
    X2 A1 A1comp node_x gnd NOT

    X3 A0comp A1comp D0 node_x gnd AND
    X4 A0 A1comp D1 node_x gnd AND
    X5 A0comp A1 D2 node_x gnd AND
    X6 A0 A1 D3 node_x gnd AND

.ends alu